US09062092B2
To a solution of 2,2-bis-hydroxymethyl-but-3-enoic acid ethyl ester (338 mg, 1.9 mmol) and 2,6-lutidine (813 mg, 0.88 mL, 7.6 mmol) in dichloromethane (10 mL) at −78° C. under nitrogen was added dropwise trifluoromethanesulfonic anhydride (1.07 g, 0.66 mL, 3.8 mmol) and the reaction mixture was warmed to room temperature and stirred at room temperature for 30 min. The solution was washed with ice-cold hydrochloric acid (1 M) and brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated to afford crude 2,2-bis-trifluoromethanesulfonyloxymethyl-but-3-enoic acid ethyl ester (1.9 mmol) as an orange oil which was used immediately in the next step. A solution of 2,2-bis-trifluoromethanesulfonyloxymethyl-but-3-enoic acid ethyl ester (1.9 mmol) in tetrahydrofuran (5 mL) was stirred at 0° C. under nitrogen. Tetra-n-butylammonium fluoride (1 M in tetrahydrofuran, 4.75 mL, 4.75 mmol) was added and the reaction mixture was stirred at 0° C. for 30 min and then at room temperature for 2 h. The solvent was evaporated. The residue was dissolved in dichloromethane and the solution was washed with saturated sodium hydrogen carbonate solution, water and brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of pentane/diethyl ether 19:1 to 4:1 to afford 2,2-bis-fluoromethyl-but-3-enoic acid ethyl ester (1.9 mmol) contaminated with solvent as a clear oil. A solution of crude 2,2-bis-fluoromethyl-but-3-enoic acid ethyl ester (1.9 mmol) in tetrahydrofuran (10 mL) was stirred at 0° C. under nitrogen. A solution of lithium hydroxide monohydrate (240 mg, 5.7 mmol) in water (2.5 mL) was added and the reaction mixture was stirred at 0° C. for 1 h and then at room temperature for 24 h. The reaction mixture was acidified to pH 2 with hydrochloric acid (2 M). Water was added and the mixture was extracted with diethyl ether. The organic extracts were combined, washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated to afford the title compound (400 mg) as a clear oil. 1H NMR (300 MHz, d6-DMSO) δ 4.54-4.83 (m, 4H), 5.33 (d, J=17.8 Hz, 1H), 5.36 (d, J=10.7 Hz, 1H), 5.81 (dd, J=17.8, 10.7 Hz, 1H), 13.0-13.5 (br s, 1H). LCMS (m/z) 149.2 [M−H], Tr=1.45 min.

reactant | 2,2-bis-hydroxymethyl-but-3-enoic acid ethyl ester | 1.9 mmol, 338 mg | C(C)OC(C(C=C)(CO)CO)=O | C8H14O4
reactant | 2,6-lutidine | 7.6 mmol, 0.88 mL, 813 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 3.8 mmol, 0.66 mL, 1.07 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2,2-bis-trifluoromethanesulfonyloxymethyl-but-3-enoic acid ethyl ester | 1.9 mmol | C(C)OC(C(C=C)(COS(=O)(=O)C(F)(F)F)COS(=O)(=O)C(F)(F)F)=O | C10H12F6O8S2
